US07141562B2
To a flask containing 7 mL methanol was added 4-(3-chloromethanesulfonylamino-2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (190 mg., 0.471 mmol) and potassium carbonate (195 mg, 1.4 mmol). The suspension was refluxed for two hours under nitrogen and allowed to cool to room temperature. To the reaction mixture was added benzyl bromide (0.083 mL, 0.7 mmol) and potassium carbonate (87 mg., 0.7 mmol), and the reaction was stirred at room temperature for 4 hours. The reaction mixture was concentrated in vacuo and the resulting crude solid was dissolved in ethyl acetate. The solution was washed with 50 mL water and 50 mL brine, and the ethyl acetate was removed in vacuo. The resulting residue was purified by flash chromatography to give 57 mg of 4-(1-Benzyl-2,2-dioxo-2,3-dihydro-1H-benzo[4,2,1]oxathiazin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester as a light purple oil (26%). (M+H)+=460

reactant | 4-(3-chloromethanesulfonylamino-2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.471 mmol, 190 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)NS(=O)(=O)CCl)O | C16H24ClN3O5S
reactant | potassium carbonate | 1.4 mmol, 195 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.7 mmol, 0.083 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.7 mmol, 87 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 7 mL | CO | CH4O
product | 4-(1-Benzyl-2,2-dioxo-2,3-dihydro-1H-benzo[4,2,1]oxathiazin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester | 57 mg, 26% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC2=C1OCS(N2CC2=CC=CC=C2)(=O)=O | C23H29N3O5S
